* C:\Users\habel\git\DL0WH_BiTuner\Docs\09_Results\DL0WH_BiTuner_1V2_Rework_of_LogAmp\BiTuner_LogAmp.asc
R11 n11 n01 15kR
D11 n11 n12 CMAD6001
V1 nVp 0 3.3V
V2 0 nVm 1.5V
V3 n01 0 SINE(5 5 10)
R21 nVp n21 5.0kR
R22 n22 n21 12kR
R12 n21 n12 1kR
C22 n22 n21 100pF
XU1 0 n11 nVp nVm n12 OPA354
XU2 0 n21 nVp nVm n22 OPA354
R1 nVp n11 150kR
.model D D
.lib C:\Users\habel\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 2 0
.step temp 10 50 20
.lib OPA354.lib
.backanno
.end
